US05543422
3-Bromo-1-propanol (1.67 g) was added to a stirred solution of 4-hydroxybenzo[b]thiophene (1.50 g) and potassium carbonate (3.04 g) in 2-butanone (40 ml) under an atmosphere of nitrogen and the mixture was heated under reflux for 3 hours. The mixture was filtered and the filtrate evaporated to dryness. The solid residue was recrystallised from ethanol to give 4-(3-hydroxypropyloxy)benzo[b]thiophene of m.p. 82° C. A solution of N-chloroacetylpyrrolidine (1.47 g) in tetrahydrofuran (THF, 10 ml) was added in one portion to a stirred solution of 4-(3-hydroxypropyloxy)benzo[b]thiophene (1.75 g) and sodium hydride (60% suspension, 0.40 g) in tetrahydrofuran under an atmosphere of nitrogen and stirring was continued for 1 hour at room temperature. The solution was filtered and the filtrate evaporated to afford an oil, which was purified by flash chromatography (silica, ethylacetate:petroleum, 1:1 v/v) to yield the pyrrolidine amide of 3-(4-benzothiophenoxy)propyloxy acetic acid.

reactant | 3-Bromo-1-propanol | 1.67 g | BrCCCO | C3H7BrO
reactant | 4-hydroxybenzo[b]thiophene | 1.50 g | OC1=CC=CC=2SC=CC21 | C8H6OS
reactant | potassium carbonate | 3.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 40 ml | CC(CC)=O | C4H8O
product | 4-(3-hydroxypropyloxy)benzo[b]thiophene | OCCCOC1=CC=CC=2SC=CC21 | C11H12O2S
